US06777406B2
(±)-trans-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline, bis-hydrochloride salt
To a solution of (±)-trans-tert-butyl 2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,8a,9,11,11a-hexahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline-10(8H)-carboxylate (160 mg, 0.33 mmol) in 5 mL of methylene chloride was added 1 mL of trifluoroacetic acid. The mixture was allowed to stir at ambient temperature for 2 h and then was concentrated in vacuo. The residue was purified by preparative HPLC (C18 reverse phase column, elution with a H2O/CH3CN gradient with 0.5% TFA). Product-containing fractions were combined, concentrated and partitioned between chloroform and saturated aqueous sodium carbonate. The organics were washed with brine, dried (K2CO3) and concentrated in vacuo. The residue (30 mg, 0.077 mmol) was dissolved in ethanol and ether and there was added 2M HCl in ether (0.077 mL, 0.15 mmol). The solvent was decanted and the remaining solid was triturated twice with ether and was dried in vacuo to afford 20 mg (57%) of the title compound of EXAMPLE 7 as an off white powder. 1H NMR (d6-dmso): δ 9.40 (broad s, 2H), 7.29-7.18 (m, 3H), 6.71 (s, 1H), 6.58 (s, 1H), 3.82 (s, 3H), 3.57-3.49 (m, 1H), 3.40-3.18 (m, 5H), 2.93-2.80 (m, 3H), 2.70-2.62 (m, 2H), 2.16-2.06 (m, 1H), 1.95-1.88 (m, 1H), 1.85-1.78 (m, 1H). LRMS (ES)+: 389.2 (M+H)+.

reactant | (±)-trans-tert-butyl 2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,8a,9,11,11a-hexahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline-10(8H)-carboxylate | 0.33 mmol, 160 mg | COC1=CC(=C(C=C1)C=1C=C2[C@H]3[C@H](CN4C2=C(C1)CCC4)CN(C3)C(=O)OC(C)(C)C)C(F)(F)F | C27H31F3N2O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ether | CCOCC | C4H10O
reactant | HCl | 2M | Cl | ClH
reactant | ether | 0.15 mmol, 0.077 mL | CCOCC | C4H10O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | (±)-trans-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline, bis-hydrochloride salt | 20 mg, 57% | Cl.Cl.COC1=CC(=C(C=C1)C=1C=C2[C@H]3[C@H](CN4C2=C(C1)CCC4)CNC3)C(F)(F)F | InChI=1S/C22H23F3N2O.2ClH/c1-28-16-4-5-17(20(9-16)22(23,24)25)14-7-13-3-2-6-27-12-15-10-26-11-19(15)18(8-14)21(13)27;;/h4-5,7-9,15,19,26H,2-3,6,10-12H2,1H3;2*1H/t15-,19+;;/m0../s1
